US08604062B2
{6-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-thiomorpholin-4-yl-methanone
A solution of trimethylaluminium (2 M in toluene, 600 μL, 1.2 mmol) was added dropwise (exothermic) to a solution of thiomorpholine (124 mg, 120 μL, 1.2 mmol) in dioxane (7.5 mL) and the resulting mixture was stirred at room temperature for 1 h. Then a solution of 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (103 mg, 0.3 mmol) in dioxane (4 mL) was added. The resulting mixture was then heated at 85-95° C. for 4 h and then cooled to room temperature and then poured into water and extracted with ethyl acetate which was then washed with brine, dried over sodium sulfate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 1:3) afforded the title compound (124 mg, 100%) which was obtained as a light yellow gum. MS: m/e=414.4 [M+H]+.

reactant | trimethylaluminium | 1.2 mmol, 2 M, 600 μL | C[Al](C)C
reactant | thiomorpholine | 1.2 mmol, 120 μL, 124 mg | N1CCSCC1 | C4H9NS
reactant | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.3 mmol, 103 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C18H15FN2O4
reactant | water | O | H2O
solvent | dioxane | 7.5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | {6-[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-pyridin-3-yl}-thiomorpholin-4-yl-methanone | 124 mg, 100% | FC=1C=C(C=CC1)C1=NOC(=C1COC1=CC=C(C=N1)C(=O)N1CCSCC1)C | C21H20FN3O3S
